US08754079B2
XXXXXXIV.6 (1S,2S) 4-[2-(2-Amino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl thieno[2,3-d]pyrimidine-6-carboxylic acid amide
A reaction mixture of 2.1 g 1S,2S) {2-(2-(6-carbamoyl-5-methyl-thieno[2,3-d]pyrimidin-4-ylamino)-5-fluoro-phenoxy]-cyclopentyl}-carbamic acid tert-butyl ester, and 1.24 ml trifluoroacetic acid in 50 ml DCM was stirred for 3 days at 46° C. The mixture was concentrated, diluted with toluenel and concentrated. The residue was extracted with DCM and water, whereby the water layer had the pH range of 10. The organic layer was dried and concentrated in vacuo. The residue was purified by chromatography.

reactant | {2-(2-(6-carbamoyl-5-methyl-thieno[2,3-d]pyrimidin-4-ylamino)-5-fluoro-phenoxy]-cyclopentyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1C(CCC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(N)=O)=O | C24H28FN5O4S
reactant | trifluoroacetic acid | 1.24 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | (1S,2S) 4-[2-(2-Amino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl thieno[2,3-d]pyrimidine-6-carboxylic acid amide | N[C@@H]1[C@H](CCC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N | C19H20FN5O2S
